US04634705
2-(6-Amino-5-chloro-1,2,3,4-tetrahydro-1-naphthalenyl)imidazoline HCl
Utilizing the procedure of Example 74 with 6-amino-1-cyano-5-chloro-(1,2,3,4-tetrahydronaphthalene) (1.2 g) and ethylenediamine (3 ml) gave the desired compound in 60% yield. m.p. 220° C. (decomp.).

reactant | 6-amino-1-cyano-5-chloro-(1,2,3,4-tetrahydronaphthalene) | 1.2 g | NC=1C(=C2CCCC(C2=CC1)C#N)Cl | C11H11ClN2
reactant | ethylenediamine | 3 ml | C(CN)N | C2H8N2
product | 2-(6-Amino-5-chloro-1,2,3,4-tetrahydro-1-naphthalenyl)imidazoline HCl | 60% yield | Cl.NC=1C(=C2CCCC(C2=CC1)C=1NCCN1)Cl | InChI=1S/C13H16ClN3.ClH/c14-12-9-2-1-3-10(13-16-6-7-17-13)8(9)4-5-11(12)15;/h4-5,10H,1-3,6-7,15H2,(H,16,17);1H
